US06596719B1
According to the procedure described in Example 4a) 100 mg 5-isopropyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide was reacted with trifluoromethanesulfonylchloride to give 83 mg 5-isopropyl-N-[6-(2-(trifluoromethanesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(2-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide. LC-MS: tR=5.02 min, [M+1]+=669.59, [M−1]−=667.68.

reactant | 5-isopropyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 100 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1=CC=NC=C1 | C26H28N6O5S
reactant | trifluoromethanesulfonylchloride | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
product | 5-isopropyl-N-[6-(2-(trifluoromethanesulfonylamino)-ethoxy)-5-(o-methoxyphenoxy)-2-(2-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 83 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCNS(=O)(=O)C(F)(F)F)C1=NC=CC=C1 | C27H27F3N6O7S2
